US04925838
To a solution of (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine (0.80 g) in N,N-dimethylformamide (10 ml) was added sodium hydroxide (78 mg) under ice-cooling and the mixture was stirred at the same temperature for 20 minutes. To a solution was added iodomethane (0.34 ml) and the mixture was stirred at 30° C.-50° C. for 1 hour. The reaction mixture was poured into ice-water (30 ml) and extracted twice with ethyl acetate (30 ml). The extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of chloroform and methanol (19:l,V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-4-methanesulfonyloxy-2-(3-methyl-2-oxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (0.78 g).

reactant | (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine | 0.80 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(NCC1)=O | C17H22N4O8S
reactant | sodium hydroxide | 78 mg | [OH-].[Na+]
reactant | iodomethane | 0.34 ml | IC | CH3I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (2S,4R)-4-methanesulfonyloxy-2-(3-methyl-2-oxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.78 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(N(CC1)C)=O | C18H24N4O8S
